### PR TITLE
[Merged by Bors] - feat: boolean subalgebras

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/BooleanSubalgebra.lean [hunk 1]
```diff
@@ -0,0 +1,379 @@
...
+lemma coe_inj : (L : Set α) = M ↔ L = M := SetLike.coe_set_eq
+
+@[simp] lemma supClosed (L : BooleanSubalgebra α) : SupClosed (L : Set α) := L.supClosed'
+@[simp] lemma infClosed (L : BooleanSubalgebra α) : InfClosed (L : Set α) := L.infClosed'
+
+lemma compl_mem (ha : a ∈ L) : aᶜ ∈ L := L.compl_mem' ha
+@[simp] lemma compl_mem_iff : aᶜ ∈ L ↔ a ∈ L := ⟨fun ha ↦ by simpa using compl_mem ha, compl_mem⟩
+@[simp] lemma bot_mem : ⊥ ∈ L := L.bot_mem'
+@[simp] lemma top_mem : ⊤ ∈ L := by simpa using compl_mem L.bot_mem
+lemma sup_mem (ha : a ∈ L) (hb : b ∈ L) : a ⊔ b ∈ L := L.supClosed ha hb
```
Comment (b-mehta) [inline Mathlib/Order/BooleanSubalgebra.lean:45]: Looks like we should have `sup_mem` for sublattices too, if we have it here

File: Mathlib/Order/BooleanSubalgebra.lean [hunk 2]
```diff
@@ -0,0 +1,379 @@
...
+structure BooleanSubalgebra [BooleanAlgebra α] extends Sublattice α where
+  compl_mem' {a} : a ∈ carrier → aᶜ ∈ carrier
+  bot_mem' : ⊥ ∈ carrier
+
+namespace BooleanSubalgebra
+section BooleanAlgebra
+variable [BooleanAlgebra α] [BooleanAlgebra β] [BooleanAlgebra γ] {L M : BooleanSubalgebra α}
+  {f : BoundedLatticeHom α β} {s t : Set α} {a b : α}
+
+initialize_simps_projections BooleanSubalgebra (carrier → coe)
```
Comment (b-mehta) [inline Mathlib/Order/BooleanSubalgebra.lean:30]:
```suggestion
initialize_simps_projections BooleanSubalgebra (carrier → coe, as_prefix coe)
```

File: Mathlib/Order/BooleanSubalgebra.lean [hunk 3]
```diff
@@ -0,0 +1,379 @@
...
+              bot_mem' := mem_iInter₂.2 fun _ _ ↦ bot_mem
+              compl_mem' := fun ha ↦ mem_iInter₂.2 fun L hL ↦ compl_mem <| mem_iInter₂.1 ha L hL
+              supClosed' := supClosed_sInter <| forall_mem_range.2 fun L ↦ supClosed_sInter <|
+                forall_mem_range.2 fun _ ↦ L.supClosed
+              infClosed' := infClosed_sInter <| forall_mem_range.2 fun L ↦ infClosed_sInter <|
+                forall_mem_range.2 fun _ ↦ L.infClosed }
+
+instance instInhabited : Inhabited (BooleanSubalgebra α) := ⟨⊥⟩
+
+/-- The top boolean subalgebra is isomorphic to the lattice.
```
Comment (b-mehta) [inline Mathlib/Order/BooleanSubalgebra.lean:188]:
```suggestion
/-- The top boolean subalgebra is isomorphic to the original lattice.
```

File: Mathlib/Order/BooleanSubalgebra.lean [hunk 4]
```diff
@@ -0,0 +1,379 @@
...
+lemma map_inf (L M : BooleanSubalgebra α) (f : BoundedLatticeHom α β) (hf : Injective f) :
+    map f (L ⊓ M) = map f L ⊓ map f M := by
+  rw [← SetLike.coe_set_eq]
+  simp [Set.image_inter hf]
+
+lemma map_top (f : BoundedLatticeHom α β) (h : Surjective f) : BooleanSubalgebra.map f ⊤ = ⊤ :=
+  SetLike.coe_injective <| by simp [h.range_eq]
+
+/-- The minimum boolean algebra containing a given set. -/
+def closure (s : Set α) : BooleanSubalgebra α := sInf {L | s ⊆ L}
```
Comment (b-mehta) [inline Mathlib/Order/BooleanSubalgebra.lean:334]: Doesn't the closure operator stuff help here?

File: Mathlib/Order/BooleanSubalgebra.lean [hunk 5]
```diff
@@ -0,0 +1,379 @@
...
+@[simp] lemma coe_inclusion (h : L ≤ M) : inclusion h = Set.inclusion h := rfl
+lemma inclusion_apply (h : L ≤ M) (a : L) : inclusion h a = Set.inclusion h a := rfl
+
+lemma inclusion_injective (h : L ≤ M) : Injective <| inclusion h := Set.inclusion_injective h
+
+@[simp] lemma inclusion_rfl (L : BooleanSubalgebra α) : inclusion le_rfl = .id L := rfl
+@[simp] lemma subtype_comp_inclusion (h : L ≤ M) : M.subtype.comp (inclusion h) = L.subtype := rfl
+
+/-- The maximum boolean subalgebra of a lattice. -/
+instance instTop : Top (BooleanSubalgebra α) where
```
Comment (b-mehta) [inline Mathlib/Order/BooleanSubalgebra.lean:153]: Let's have some simp lemmas describing membership of this subalgebra, and similarly for bot, inf, and infset. Similarly for sup and supset, after they're defined.

File: Mathlib/Order/BooleanSubalgebra.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Order/BooleanSubalgebra.lean:334]: No, because we're not returning a `Set` but a `BooleanSubalgebra`. If you remember, the return type is the distinction I draw between Galois insertions and closure operators

File: Mathlib/Order/BooleanSubalgebra.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: I can't see the `sup` and `supSet` versions?

Comment (YaelDillies) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: I will let you tell me what they should say 😉

(hint: infimum of subobjects typically corresponds to intersection of the underlying sets, but supremum does not)

Comment (b-mehta) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: Ah, I remember we discussed this now, and I misremembered the conclusion :) You said that the infimum and supremum don't correspond to intersection and union here, and I said that you were wrong. But you were only wrong about infimum!

File: Mathlib/Order/BooleanSubalgebra.lean [hunk 6]
```diff
@@ -0,0 +1,381 @@
...
+instance instBot : Bot (BooleanSubalgebra α) where
+  bot.carrier := {⊥, ⊤}
+  bot.bot_mem' := by aesop
+  bot.compl_mem' := by aesop
+  bot.supClosed' _ := by aesop
+  bot.infClosed' _ := by aesop
+
+/-- The inf of two boolean subalgebras is their intersection. -/
+instance instInf : Min (BooleanSubalgebra α) where
+  min L M :=  { carrier := L ∩ M
```
Comment (b-mehta) [inline Mathlib/Order/BooleanSubalgebra.lean:170]: Do you want to do `min.carrier` etc here too, like above, for consistency? (and because it looks prettier imo)

**Comment by b-mehta** [comment]
bors d+

File: Mathlib/Order/BooleanSubalgebra.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: I say "not (inf = inter and sup = union)", you hear "not inf = inter and not sup = union" 😝

Comment (b-mehta) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: Actually you said "Coercion to sets doesn't preserve suprema nor infima", I find it hard to believe "not inf = inter and not sup = union" is the wrong interpretation :D

File: Mathlib/Order/BooleanSubalgebra.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Order/BooleanSubalgebra.lean:170]: I can't! The type of `min` is `BooleanSubalgebra α → BooleanSubalgebra α → BooleanSubalgebra α`, not `BooleanSubalgebra α`

File: Mathlib/Order/BooleanSubalgebra.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: Ah yes, it does not preserve _arbitrary_ suprema/infima, since the bottom boolean subalgebra is not the empty set. This is probably what I had in mind when I said this

Comment (b-mehta) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: Uh, isn't that exactly what `coe_iInf` says? It's also what you agreed was true when we talked about this previously!

Comment (YaelDillies) [reply Mathlib/Order/BooleanSubalgebra.lean:153]: Okay, at this point I don't remember what I said and why
